US07288541B2
To 3.30 g (10.57 mmol) of (2S)-3,3-dimethyl-1-{4-[4-(trifluoromethyl)phenyl]-1H-pyrazol-1-yl}-2-butanol in 200 mL of tetrahydrofuran at 0° C. was added 7.26 mL (11.62 mmol) of 1.6 M n-butyllithium in hexanes, and the resulting solution was stirred for 10 min. Then, 3.19 g (15.84 mmol) of 4-nitrophenyl chloroformate in 11 mL of tetrahydrofuran was added, and the solution was stirred at room temperature for 75 min. Saturated aqueous sodium bicarbonate was added, and the resulting mixture was extracted with ethyl acetate. The extract was washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, filtered, and concentrated. The residue was purified by silica gel column chromatography eluting with an ethyl acetate:hexanes solution (3:7) to give 3.92 g (78%) of (1S)-2,2-dimethyl-1-({4-[4-(trifluoromethyl)phenyl]-1H-pyrazol-1-yl}methyl)propyl 4-nitrophenyl carbonate. Rf=0.19 (3:7 ethyl acetate:hexanes); 1H-NMR (300 MHz, DMSO-d6): δ 8.44 (s, 1H), 8.14 (d, J=9 Hz, 2H), 8.08 (s, 1H), 7.79 (d, J=8 Hz, 2H), 7.70 (d, J=8 Hz, 2H), 7.27 (d, J=9 Hz, 2H), 4.88 (dd, J=10 Hz, J=2 Hz, 1H), 4.61 (d, J=13 Hz, 1H), 4.32 (dd, J=15 Hz, J=10 Hz, 1H), 1.05 (s, 9H); ES-LCMS m/z 478 (M+H).

reactant | (2S)-3,3-dimethyl-1-{4-[4-(trifluoromethyl)phenyl]-1H-pyrazol-1-yl}-2-butanol | 10.57 mmol, 3.30 g | CC([C@@H](CN1N=CC(=C1)C1=CC=C(C=C1)C(F)(F)F)O)(C)C | C16H19F3N2O
reactant | n-butyllithium | 11.62 mmol, 1.6 M, 7.26 mL | C(CCC)[Li]
reactant | 4-nitrophenyl chloroformate | 15.84 mmol, 3.19 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 11 mL | O1CCCC1 | C4H8O
product | (1S)-2,2-dimethyl-1-({4-[4-(trifluoromethyl)phenyl]-1H-pyrazol-1-yl}methyl)propyl 4-nitrophenyl carbonate | 3.92 g, 78% | C(O[C@@H](C(C)(C)C)CN1N=CC(=C1)C1=CC=C(C=C1)C(F)(F)F)(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C23H22F3N3O5
